US07855216B2
Step 4: 3-Amino-7-fluoro-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester
5-Fluoro-4-methylamino-nicotinonitrile (2.35 g, 15 mmol) was dissolved in DMF (50 mL) and the solution cooled in an ice-bath. This solution was treated portionwise with sodium hydride (900 mg, 60% in oil, 22.5 mmol). The mixture was allowed to warm to room temperature and stirring continued for 15 minutes at room temperature. Ethyl bromoacetate (2.49 ml, 22.5 mmol) was added and the mixture stirred for 30 minutes at room temperature The reaction mixture was quenched with water and extracted with ethyl acetate. The organic layer was isolated, dried (Na2SO4) and evaporated to give a solid. Trituration of the resultant solid with methanol gave the title compound (1.85 g, 52%) as a yellow solid. LCMS (method B): RT=2.09 min, M+H+ 238.

reactant | 5-Fluoro-4-methylamino-nicotinonitrile | 15 mmol, 2.35 g | FC=1C=NC=C(C#N)C1NC | C7H6FN3
reactant | sodium hydride | 22.5 mmol, 900 mg | [H-].[Na+]
reactant | Ethyl bromoacetate | 22.5 mmol, 2.49 ml | BrCC(=O)OCC | C4H7BrO2
reactant | methanol | CO | CH4O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Amino-7-fluoro-1-methyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid ethyl ester | 1.85 g, 52% | C(C)OC(=O)C1=C(C=2C=NC=C(C2N1C)F)N | C11H12FN3O2
